* source 2-B
M_M1         N00130 N00189 N00126 N00126 Mbreakn           
V_V1         N00134 0 5
R_R1         N00130 N00134  100k TC=0,0 
R_R2         0 N00126  20k TC=0,0 
V_V2         N00189 0  
+SIN 1.2 0.01 100 0 0 0
